US08486970B2
To a mixed liquid of 400 mg of (3RS,4RS)—N-[2-amino-2-(hydroxyimino)ethoxy]-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(mesyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide and 40 ml of acetonitrile were added 108 mg of CDI and 0.4 ml of DBU under ice-cooling, followed by stirring at room temperature overnight. After concentrating the reaction solution, a saturated aqueous ammonium chloride solution and ethyl acetate were added thereto, followed by extraction. The organic layer was washed with saturated brine and then dried over anhydrous magnesium sulfate, and the solvent was evaporated. The residue was purified by silica gel column chromatography (eluent: chloroform-methanol) and recrystallized from ethyl acetate to obtain 40 mg of (3RS,4RS)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(mesyl)amino]cyclohexyl}-1-oxo-N-[(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)methoxy]-1,2,3,4-tetrahydroisoquinoline-4-carboxamide as a colorless crystal.

reactant | (3RS,4RS)—N-[2-amino-2-(hydroxyimino)ethoxy]-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(mesyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide | 400 mg | NC(CONC(=O)C1C(N(C(C2=CC=CC=C12)=O)C1C(CCCC1)NS(=O)(=O)C)C1=C(C=C(C=C1)Cl)Cl)=NO | C25H29Cl2N5O6S
reactant | CDI | 108 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | DBU | 0.4 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | (3RS,4RS)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(mesyl)amino]cyclohexyl}-1-oxo-N-[(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)methoxy]-1,2,3,4-tetrahydroisoquinoline-4-carboxamide | 40 mg | ClC1=C(C=CC(=C1)Cl)C1N(C(C2=CC=CC=C2C1C(=O)NOCC1=NOC(N1)=O)=O)C1C(CCCC1)NS(=O)(=O)C | C26H27Cl2N5O7S
